US07491735B2
A solution of 4-(4-nitro-benzoyl)-benzoic acid (Dinsmore, Christopher J.; et al., Bioorg. Med. Chem. Lett., 7, 10, 1997, 1345-1348) (4.00 g, 14.7 mmol) and sulfuric acid (1.2 mL) in MeOH (40 mL) was heated at reflux for 18 h. The mixture was filtered and after work-up gave 4-(4-nitro-benzoyl)-benzoic acid methyl ester as a yellow solid (3.97 g, 94%).

reactant | 4-(4-nitro-benzoyl)-benzoic acid | 14.7 mmol, 4.00 g | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(C(=O)O)C=C2)C=C1 | C14H9NO5
reactant | sulfuric acid | 1.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | MeOH | 40 mL | CO | CH4O
product | 4-(4-nitro-benzoyl)-benzoic acid methyl ester | 3.97 g, 94% | COC(C1=CC=C(C=C1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C15H11NO5
